US04892966
127.2 g (1.2 mol) of sodium carbonate and 4.6 g (0.02 mol) of benzyltriethylammonium chloride are suspended in 800 ml of acetonitrile. While stirring there is added dropwise thereto within 8 hours a solution of 150.5 g (1 mol) of methyl 4-chloroacetoacetate and 138.8 g (1.5 mol) of chloroacetone in 200 ml of acetonitrile. The mixture is stirred at 20°-25° C. for a further 15 hours. The reaction mixture is poured into 750 ml of 2N HCl (pH value=1) and extracted three times with 300 ml of ether. The combined organic phases are dried over magnesium sulphate and concentrated on a rotary evaporator. The residue is treated with 200 ml of ether, the precipitated 2,5-bimethoxycarbonyl-1,4-cyclohexanedione is filtered off under suction and the filtrate is again concentrated. The crude product is column chromatographed on silica gel with ether/hexane 1:1 and gives 32.28 g (15.6%) of methyl 4-chloro-2-acetonylacetoacetate.

reactant | sodium carbonate | 1.2 mol, 127.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl 4-chloroacetoacetate | 1 mol, 150.5 g | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | chloroacetone | 1.5 mol, 138.8 g | ClCC(C)=O | C3H5ClO
reactant | HCl | 2N, 750 ml, pH value=1 | Cl | ClH
catalyst | benzyltriethylammonium chloride | 0.02 mol, 4.6 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | methyl 4-chloro-2-acetonylacetoacetate | 32.28 g, 15.6% | ClCC(C(C(=O)OC)CC(=O)C)=O | C8H11ClO4
